US08114993B2
2-Phenyl-3-nitrobenzoic Acid (Entry 7, Table III)
Palladium acetate (5.6 mg, 0.025 mmol), 3-nitrobenzoic acid (84 mg, 0.5 mmol) and 4-chlorobenzene (283 mg, 2.5 mmol), butyldi-1-adamantylphosphine (19.2 mg, 0.05 mmol, Cs2CO3 (358 mg, 1.1 mmol), molecular sieves 3 Å (155 mg) and anhydrous DMF (2.5 mL). After flash chromatography and preparative HPLC 79 mg (65%) of a white solid was obtained. Analytical data are consistent with that of previously reported data.3 1H NMR (300 MHz, CDCl3) δ 7.32-7.37 (m, 2H), 7.42-7.46 (m, 3H), 7.57 (d, J-8.4 Hz, 1H), 8.40 (dd, J-8.4 Hz, 2.1 Hz, 1H), 8.80 (d, J-2.1 Hz, 1H). Carboxylate proton signal was not observed. The 1H NMR spectrum is shown in FIG. 37.

reactant | 3-nitrobenzoic acid | 0.5 mmol, 84 mg | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1 | C7H5NO4
reactant | 4-chlorobenzene | 2.5 mmol, 283 mg | ClC1=CC=CC=C1 | C6H5Cl
reactant | butyldi-1-adamantylphosphine | C(CCC)P(C12CC3CC(CC(C1)C3)C2)C23CC1CC(CC(C2)C1)C3 | C24H39P
reactant | Cs2CO3 | 1.1 mmol, 358 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Palladium acetate | 0.025 mmol, 5.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 2-Phenyl-3-nitrobenzoic Acid | 79 mg, 65% | C1(=CC=CC=C1)C1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C13H9NO4
